US04636516
By following the same procedure as in Example 8 using 13.1 g of 2-amino-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-butanone hydrochloride, 6.5 g of sodium thiocyanate, 3.4 ml of concentrated, and 100 ml of acetic acid and recrystallizing the reaction product from isopropanol, 6 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-ethyl-2-thioxo-4-imidazoline was obtained.

reactant | 2-amino-1-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-butanone hydrochloride | 13.1 g | Cl.NC(C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)CC
reactant | sodium thiocyanate | 6.5 g | [S-]C#N.[Na+]
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-ethyl-2-thioxo-4-imidazoline | 6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1NC(NC1CC)=S | C19H28N2OS
